US06420381B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-(1-pyrazolylmethyl)phenyl]urea:
In the same manner as in Example 8 (b), the title compound is prepared from N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-(bromomethyl)phenyl]urea and pyrazole.

reactant | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-(bromomethyl)phenyl]urea | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC(=C1)CBr)C(C)(C)C)=O | C31H35BrN4O3
reactant | pyrazole | N1N=CC=C1 | C3H4N2
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-(1-pyrazolylmethyl)phenyl]urea | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC(=C1)CC1=NNC=C1)C(C)(C)C)=O | C34H38N6O3
